US06211378B1
1-(1-Phenylethyl)oxy-4-hydroxy-2,2,6,6-tetramethylpiperidine
A mixture of 17.23 g (0.10 mol) of 1-oxyl-4-hydroxy-2,2,6,6-tetramethylpiperidine and 106.17 g (1.0 mol) of ethylbenzene under a nitrogen atmosphere is heated at 133° C. for 26 hours. The volatiles are removed in vacuo and the residue is triturated with diethyl ether. The precipitate of 1,4-dihydroxy-2,2,6,6-tetramethylpiperidine is collected by filtration to give 12.57 g of an off-white solid.

reactant | 1-oxyl-4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.10 mol, 17.23 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | ethylbenzene | 1.0 mol, 106.17 g | C(C)C1=CC=CC=C1 | C8H10
product | 1-(1-Phenylethyl)oxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 12.57 g | C1(=CC=CC=C1)C(C)ON1C(CC(CC1(C)C)O)(C)C | C17H27NO2
